US06518282B1
2-Propoxyethyl 4-Bromobenzenesulfonate
To a solution of 2-propoxy-1-ethanol (1.5 g, 14.4 mmol) and triethylamine (2.2 g, 21.6 mmol) in dichloromethane (20 mL) at 0° C. was added 4-bromobenzenesulfonyl chloride (3.86 g, 15.1 mmol) in dichloromethane (10 mL) dropwise over 30 minutes. The reaction was then warmed to room temperature and stirred for 16 hours. The mixture was then poured into water (50 mL) and acidified with 2N aqueous hydrochloric acid (15 mL). The aqueous layer was extracted with dichloromethane and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to give a crude residue. This was purified by column chromatography on silica gel (50 g), eluting with hexane:ethyl acetate (9:3), to give the title compound (2.2 g, 48%) as a colourless oil.

reactant | 2-propoxy-1-ethanol | 14.4 mmol, 1.5 g | C(CC)OCCO | C5H12O2
reactant | triethylamine | 21.6 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzenesulfonyl chloride | 15.1 mmol, 3.86 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | hydrochloric acid | 2N, 15 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-Propoxyethyl 4-Bromobenzenesulfonate | 2.2 g, 48% | BrC1=CC=C(C=C1)S(=O)(=O)OCCOCCC | C11H15BrO4S
